US05366989
To 100 mg of 3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butanenitrile were added 0.2 ml of diethyl dithiophosphate and 0.04 ml of water. The resulting mixture was subjected to reaction at 80°-90° C. for 5 hours. The reaction mixture was purified by a column chromatography (eluant: chloroform/methanol=50/1) to obtain an oily matter. To the oily matter was added 0.5 ml of a 2N hydrochloric acid-dioxane solution, and then diethyl ether was added. The resulting crystals were collected by filtration to obtain 110 mg of 3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butanethioamide hydrochloride.

reactant | 3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butanenitrile | 100 mg | FC1=C(C=CC(=C1)F)C(C(C#N)(F)F)(CN1N=CN=C1)O | C12H8F4N4O
reactant | diethyl dithiophosphate | 0.2 ml | P(=S)(SCC)(OCC)[O-]
reactant | water | 0.04 ml | O | H2O
reactant | hydrochloric acid dioxane | 2N | Cl.O1CCOCC1
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butanethioamide hydrochloride | 110 mg | Cl.FC1=C(C=CC(=C1)F)C(C(C(N)=S)(F)F)(CN1N=CN=C1)O | InChI=1S/C12H10F4N4OS.ClH/c13-7-1-2-8(9(14)3-7)11(21,12(15,16)10(17)22)4-20-6-18-5-19-20;/h1-3,5-6,21H,4H2,(H2,17,22);1H
